US05691349
Acetamidoxime hydrochloride (1.5 g) was added portionwise to an ice-cooled suspension of sodium hydride (1.18 g of a 60% dispersion in oil) in dry tetrahydrofuran (40 ml) under an atmosphere of argon. Molecular sieves (type 4A, 8-12 mesh) were added to the reaction mixture, followed by a solution of ethyl 4-iodobenzoate (3.73 g) in tetrahydrofuran (10 ml). The reaction mixture was heated at 65° C. for 3 hours. The reaction mixture was allowed to cool to ambient temperature and was then partitioned between ethyl acetate and water. The organic phase was separated, washed with saturated brine, dried (MgSO4) and evaporated. The residue was purified by flash column chromatography on silica gel using a 70:30 (v/v) mixture of ethyl acetate/hexane as eluent to give 3-methyl-5-(4-iodophenyl)-1,2,4-oxadiazole (1.12 g) as a solid, m.p. 136°-137° C.; microanalysis, found: C, 38.2; H, 2.5; N, 9.5%; C9H7IN2O requires: C, 37.8; H, 2.47; N, 9.79%; NMR: 2.41(3H,s), 7.84(2H,d), 8.02(2H,d); m/z 287(M+H).

reactant | Acetamidoxime hydrochloride | 1.5 g | Cl.C(C)(N)=NO
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl 4-iodobenzoate | 3.73 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-methyl-5-(4-iodophenyl)-1,2,4-oxadiazole | 1.12 g | CC1=NOC(=N1)C1=CC=C(C=C1)I | C9H7IN2O
